US08497278B2
1-[6-Chloro-2-(4-chloro-phenyl)-imidazo[1,2-a]pyridin-3-ylmethyl]-azetidin-2-one (113)
The title compound was prepared according to Method B and the experimentals described for compound 91 from 6-chloro-3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride and azetidin-2-one. m/e+ 346 for C17H14Cl2N3O4 [M+H]+; 1H-NMR (400 MHz, CDCl3) δ 8.44 (s, 1H), 7.65 (d, J=8.4 Hz, 2H), 7.59 (d, J=9.5 Hz, 1H), 7.46 (d, J=8.4 Hz, 2H), 7.25 (m, 1H), 4.79 (s, 2H), 3.18 (t, J=4.0 Hz, 2H), 3.00 (t, J=4.0 Hz, 2H) ppm; 13C-NMR (100 MHz, CDCl3, δ) 168.269, 145.293, 143.807, 134.791, 132.129, 129.877, 129.324, 127.269, 122.325, 121.771, 118.185, 115.333, 39.400, 37.512, 35.449 ppm.

reactant | 6-chloro-3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride | Cl.ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)Cl)CCl
reactant | azetidin-2-one | N1C(CC1)=O | C3H5NO
product | 1-[6-Chloro-2-(4-chloro-phenyl)-imidazo[1,2-a]pyridin-3-ylmethyl]-azetidin-2-one | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)Cl)CN2C(CC2)=O | C17H13Cl2N3O
